US04429115
Under HPLC the peak corresponding to P 15153 has a retention time with respect to erythromycin A of 0.64 and with respect to oleandomycin of 0.99. For the above four antibiotics, which are obtained in admixture from erythronolide B, after 100 hours of fermentation and before the isolation, the total antibiotic activity, expressed as activity of erythromycin A, is about 120-150 mcg/ml.

reactant | erythromycin A | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | oleandomycin | C[C@@H]1C[C@@H]([C@H]([C@@H](O1)O[C@H]2[C@H](C[C@@]3(CO3)C(=O)[C@@H]([C@H]([C@H]([C@H](OC(=O)[C@@H]([C@H]([C@@H]2C)O[C@H]4C[C@@H]([C@H]([C@@H](O4)C)O)OC)C)C)C)O)C)C)O)N(C)C | C35H61NO12
product | erythronolide B | CC[C@@H]1[C@@H]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O)C)O)(C)O)C)C)O)C | C21H38O7
